US04051248
8-[(2,3-Dihydro-5,6-dimethoxy-1-oxo-1H-inden-2-yl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]-decan-4-one, hydrochloride (1:1)
8-[(2,3-Dihydro-5,6-dimethoxy-1-oxo-1H-inden-2-yl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one (2.75 g) is taken up in 400 ml of boiling dioxane and filtered while hot. The filtrate is concentrated to half its original volume, cooled and treated with 1.2 equivalents of a solution of hydrogen chloride in dioxane. The resulting solution is then diluted with 200 ml of ether and chilled. The crude hydrochloride salt thus obtained is triturated with boiling absolute ethanol (50 ml), cooled and filtered to yield 1.68 g of the title compound, melting point 210°-211° C.

reactant | 8-[(2,3-Dihydro-5,6-dimethoxy-1-oxo-1H-inden-2-yl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 2.75 g | COC=1C=C2CC(C(C2=CC1OC)=O)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C25H29N3O4
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | ether | 200 ml | CCOCC | C4H10O
product | 8-[(2,3-Dihydro-5,6-dimethoxy-1-oxo-1H-inden-2-yl)methyl]-1-phenyl-1,3,8-triazaspiro[4.5]-decan-4-one, hydrochloride | 1.68 g | Cl.COC=1C=C2CC(C(C2=CC1OC)=O)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | InChI=1S/C25H29N3O4.ClH/c1-31-21-13-17-12-18(23(29)20(17)14-22(21)32-2)15-27-10-8-25(9-11-27)24(30)26-16-28(25)19-6-4-3-5-7-19;/h3-7,13-14,18H,8-12,15-16H2,1-2H3,(H,26,30);1H
